US07985862B2
(Step 1) A solution of 2-[(acetylamino)methyl]-4-fluorobenzenesulfonyl chloride (1.5 g), cyclopropylamine (0.43 ml) and triethylamine (0.87 ml) in tetrahydrofuran (15 ml) was stirred at room temperature for 2 hr. The reaction mixture was quenched with saturated brine, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was crystallized from methanol-water to give N-[2-(cyclopropylsulfamoyl)-5-fluorobenzyl]acetamide (1.06 g) as a white solid.

reactant | 2-[(acetylamino)methyl]-4-fluorobenzenesulfonyl chloride | 1.5 g | C(C)(=O)NCC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C9H9ClFNO3S
reactant | cyclopropylamine | 0.43 ml | C1(CC1)N | C3H7N
reactant | triethylamine | 0.87 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[2-(cyclopropylsulfamoyl)-5-fluorobenzyl]acetamide | 1.06 g | C1(CC1)NS(=O)(=O)C1=C(CNC(C)=O)C=C(C=C1)F | C12H15FN2O3S
